US05468472
(2) Preparation of 4-(3-morpholinopropylthio)resorcin
4 g of 4-(3-chloropropylthio)resorcin and 8 ml of morpholine are heated for two hours at 100° C. The mixture is poured into ice-cold water and extracted with ethyl acetate. The organic phases are washed, dried and concentrated under vacuum. The yellow oil is crystallized from ethyl acetate to lead to white crystals having a melting point of: 99° C.

reactant | 4-(3-chloropropylthio)resorcin | 4 g | ClCCCSC1=C(C=C(O)C=C1)O | C9H11ClO2S
reactant | morpholine | 8 ml | N1CCOCC1 | C4H9NO
product | 4-(3-morpholinopropylthio)resorcin | O1CCN(CC1)CCCSC1=C(C=C(O)C=C1)O | C13H19NO3S
